US04552866
(A) [(Phenylmethoxy)carbonyl]-L-leucine, 2-(trimethylsilyl)ethyl ester
A mixture of 20.1 g (75.7 mmol) of [(phenylmethoxy)carbonyl]-L-leucine, 0.925 g (7.57 mmol) of dimethylaminopyridine and 8.95 g (75.7 mmol) of 2-trimethylsilylethanol in 200 ml of dichloromethane was cooled in an ice bath under nitrogen and treated with a solution of 15.6 g (75.7 mmol) of dicyclohexylcarbodiimide in 50 ml of dichloromethane. The ice bath was removed after 30 minutes and the reaction allowed to come to room temperature overnight. The reaction mixture was filtered, concentrated in vacuo and partitioned between 800 ml of ether and 200 ml of water. The organic layer was separated and further rinsed with saturated sodium bicarbonate, water, 10% potassium bisulfate, water and brine, then dried (magnesium sulfate) and concentrated in vacuo to 26.1 g of crude product. Flash filtration over silica gel (180 g in 20:1, hexanes:ethyl acetate) yielded 22.9 g of crude product which was chromatographed using a Waters Prep 500 LC, two columns eluted with 15:1, hexanes:ethyl acetate (250 ml/minute, 200 ml fractions). Combining the pure fractions yielded 19.6 g of the title compound as an oil: [α]D =7.3° (c=1, chloroform).

reactant | [(phenylmethoxy)carbonyl]-L-leucine | 75.7 mmol, 20.1 g | C1(=CC=CC=C1)COC(=O)N[C@@H](CC(C)C)C(=O)O | C14H19NO4
reactant | dimethylaminopyridine | 7.57 mmol, 0.925 g | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | 2-trimethylsilylethanol | 75.7 mmol, 8.95 g | C[Si](CCO)(C)C | C5H14OSi
reactant | dicyclohexylcarbodiimide | 75.7 mmol, 15.6 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | [(Phenylmethoxy)carbonyl]-L-leucine, 2-(trimethylsilyl)ethyl ester | 19.6 g | C1(=CC=CC=C1)COC(=O)N[C@@H](CC(C)C)C(=O)OCC[Si](C)(C)C | C19H31NO4Si
